US08114868B2
2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl) -2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide
The title compound was prepared from 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile and 4-bromo-1-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1, followed by treatment with H2O2, K2CO3. LC-MS Method 2 tR=1.133 min, m/z=488.1; 1H NMR (CDCl3) 1.12 (s, 3H), 1.19 (s, 3H), 1.49 (d, 3H), 2.09-2.28 (m, 3H), 2.32-2.58 (m, 2H), 2.89 (m, 1H), 3.59 (s, 3H), 5.61 (m, 1H), 6.54 (m, 1H), 6.88 (m, 1H), 6.97-7.10 (m, 2H), 7.28 (m, 6H), 7.42 (m, 1H), 7.53 (m, 1H).

reactant | 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C29H37BN2O4
reactant | 4-bromo-1-methylpyridin-2(1H)-one | BrC1=CC(N(C=C1)C)=O | C6H6BrNO
reactant | H2O2 | OO | H2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl) -2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide | CC(C(=O)N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1)C | C29H33N3O4
